US08076345B2
5-Chloro-2-{4-[(imidazo[1,2-a]pyridin-7-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile
A reaction mixture of 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile (250 mg, 0.82 mmol) and imidazo[1,2-a]pyridin-7-ylmethanamine (270 mg, 1.83 mmol) in acetonitrile (10 mL) and N,N-diisopropylethylamine (1.0 mL, 5.7 mmol) was subjected to microwave irradiation at 185° C. for 4 h. The reaction mixture was concentrated and purified by semi-preparative HPLC (100×20.2 mm, C18 column; 40-60% CH3CN-water [10 mM Et2NH]) to yield a light yellow solid.

reactant | 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 0.82 mmol, 250 mg | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H10Cl2N4
reactant | imidazo[1,2-a]pyridin-7-ylmethanamine | 1.83 mmol, 270 mg | N=1C=CN2C1C=C(C=C2)CN | C8H9N3
reactant | N,N-diisopropylethylamine | 5.7 mmol, 1.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 5-Chloro-2-{4-[(imidazo[1,2-a]pyridin-7-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC2=CC=3N(C=C2)C=CN3)CC1 | C22H18ClN7
